US07666901B2
Preparation of (1Z,4S,4aR,5R,6aS,7S,9aR)-7,11-dihydroxy-1-(hydroxymethylene)-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate
17-hydroxy-wortmannin (20 mg, 0.047 mmol) is dissolved in 4 mL acetonitrile and 2 mL water with 0.5 mL triethylamine. The reaction mixture is stirred at room temperature overnight. The title compound is isolated by preparative HPLC using Nova-Pak HRC 18, 60A, 6 um, 19×300 mm column (Waters) at UV 254 nm (Mobile Phase A is 100 ml acetonitrile with 900 ml water, and 0.2 ml trifluoroacetic acid. Mobile Phase B is 900 ml acetonitrile with 100 ml water and 0.2 ml trifluoroacetic acid. The gradient is 0-5 min at 20% B and 80% A, 5-35 min from 20% B to 70% B at flow rate 20 mL/min). The fraction at 12 min peak is collected and extracted with CH2Cl2. The organic layer is dried over anhydrous sodium sulfate and rotavaped to dryness. A total of 5 mg of yellow solid is obtained by precipitation from 1 mL CH2Cl2 and 3 mL heptane and drying using nitrogen gas and then a speecdvac. LC/MS shows [M+H] 449.31 and [M−H] 447.26.

reactant | 17-hydroxy-wortmannin | 0.047 mmol, 20 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | water | 2 mL | O | H2O
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | (1Z,4S,4aR,5R,6aS,7S,9aR)-7,11-dihydroxy-1-(hydroxymethylene)-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate | C(C)(=O)O[C@@H]1C[C@@]2([C@H](CC[C@H]2C=2C(C(=C3/C(/C(O[C@@H]([C@@]3(C21)C)COC)=O)=C/O)O)=O)O)C | C23H28O9
